US08557984B2
Ethyl 7-(3,5-dimethyl-4-isoxazolyl)-4-hydroxy-6-(methyloxy)-3-quinolinecarboxylate (for a preparation see Intermediate 58, 70.2 g, 205 mmol,) was suspended in a mixture of ethanol (200 ml) and sodium hydroxide (2M, 308 ml, 615 mmol) and the mixture was heated at reflux overnight. The reaction was concentrated to ca 200 ml in vacuo, diluted with water (500 ml) and the resulting solution washed with ethyl acetate (200 ml). The aqueous phase was acidified to pH4 with hydrochloric acid (1M), the resulting suspension stirred vigorously for 10 min. The solid was collected by filtration, washed with water (200 ml) and dried overnight at 40° C. in vacuo to give 7-(3,5-dimethyl-4-isoxazolyl)-4-hydroxy-6-(methyloxy)-3-quinolinecarboxylic acid as a beige solid (54.7 g). Used without further purification.

reactant | Ethyl 7-(3,5-dimethyl-4-isoxazolyl)-4-hydroxy-6-(methyloxy)-3-quinolinecarboxylate | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)C(=O)OCC)O)OC)C | C18H18N2O5
reactant | sodium hydroxide | 615 mmol, 2M, 308 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 7-(3,5-dimethyl-4-isoxazolyl)-4-hydroxy-6-(methyloxy)-3-quinolinecarboxylic acid | 54.7 g | CC1=NOC(=C1C1=C(C=C2C(=C(C=NC2=C1)C(=O)O)O)OC)C | C16H14N2O5
